US09193741B2
Synthesis of 2-(2-(4-fluorophenoxy)ethyl)-7-(methylthio)thiazolo[5,4-d]pyrimidin-5-amine
A solution of N-(2-amino-4,6-dihydroxypyrimidin-5-yl)-3-(4-fluorophenoxy)propanamide (2.5 g, 8.11 mmol) and phosphorus pentasulfide (3.60 g, 16.2 mmol) in dry pyridine (40 ml) was refluxed for 6 hours. After cooling down to room temperature, the precipitate was filtered off, washed with ethylacetate and dried. The crude 5-amino-2-(2-(4-fluorophenoxy)ethyl)-thiazolo[5,4-d]pyrimidine-7-thiol (2.0 g, 6.20 mmol) was redissolved in DMSO (30 ml). Triethylamine (0.85 ml, 6.12 mmol) and iodomethane (0.31 ml, 4.90 mmol) were added. The reaction mixture was stirred for 12 hours at room temperature under a nitrogen atmosphere. The mixture was poured into water and extracted with EtOAc. The combined organic layers were dried over Na2SO4 and the solvents were removed under reduced pressure. The crude residue was purified by chromatography on silica gel (CH2Cl2/MeOH 100:1), yielding the title compound as a light yellow solid (0.45 g, 15% over 2 steps).

reactant | N-(2-amino-4,6-dihydroxypyrimidin-5-yl)-3-(4-fluorophenoxy)propanamide | 8.11 mmol, 2.5 g | NC1=NC(=C(C(=N1)O)NC(CCOC1=CC=C(C=C1)F)=O)O | C13H13FN4O4
reactant | phosphorus pentasulfide | 16.2 mmol, 3.60 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 5-amino-2-(2-(4-fluorophenoxy)ethyl)-thiazolo[5,4-d]pyrimidine-7-thiol | 6.20 mmol, 2.0 g | NC=1N=C(C2=C(N1)SC(=N2)CCOC2=CC=C(C=C2)F)S | C13H11FN4OS2
reactant | Triethylamine | 6.12 mmol, 0.85 ml | C(C)N(CC)CC | C6H15N
reactant | iodomethane | 4.90 mmol, 0.31 ml | IC | CH3I
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(2-(4-fluorophenoxy)ethyl)-7-(methylthio)thiazolo[5,4-d]pyrimidin-5-amine | 0.45 g, 15% | FC1=CC=C(OCCC=2SC=3N=C(N=C(C3N2)SC)N)C=C1 | C14H13FN4OS2
